US05929094
(3S,5R,6S,7S)6-(4-Fluorophenyl)-3-[3-methoxy-6-(5-trifluoromethyl-tetrazol-1-yl)-pyridin-2-yl]-1-oxaspiro[4.4]nonane-7-carboxylic acid methyl ester
This material was made by hydrogenation with H2 in methanol over 20% palladium hydroxide of 6-(4-fluorophenyl)-3-[3-methoxy-6-(5-trifluoromethyl-tetrazol-1-yl)-pyridin-2-yl]-1-oxaspiro[4.4]non-3-ene-7-carboxylic acid methyl ester by the method given in Example 6, Step G. NMR (400 MHz, CDCl3): δ 7.66(d, J=7Hz,1H); 7.29(m, 3H); 6.90(t, J=9 Hz, 2H); 4.1(t, J=7Hz, 1H); 3.88 (s over multiplet, 3H+1H); 3.54(s,3H); 3.2-3.35(m, 3H); 2.25-2.33(m, 1H); 2.1-2.22(m, 3H); 1.90-2.0(m, 2H); Mass spectrum: 522 (M+1).

reactant | 6-(4-fluorophenyl)-3-[3-methoxy-6-(5-trifluoromethyl-tetrazol-1-yl)-pyridin-2-yl]-1-oxaspiro[4.4]non-3-ene-7-carboxylic acid methyl ester | COC(=O)C1C(C2(C=C(CO2)C2=NC(=CC=C2OC)N2N=NN=C2C(F)(F)F)CC1)C1=CC=C(C=C1)F | C24H21F4N5O4
solvent | methanol | CO | CH4O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | (3S,5R,6S,7S)6-(4-Fluorophenyl)-3-[3-methoxy-6-(5-trifluoromethyl-tetrazol-1-yl)-pyridin-2-yl]-1-oxaspiro[4.4]nonane-7-carboxylic acid methyl ester | COC(=O)[C@@H]1[C@H]([C@]2(C[C@H](CO2)C2=NC(=CC=C2OC)N2N=NN=C2C(F)(F)F)CC1)C1=CC=C(C=C1)F | C24H23F4N5O4
